US04410536
1-Butyl-9-benzyl-7,8,9,10-tetrahydrothieno[3,2-e]pyrido[4,3-b]indole
The compound is formed analogously to that described in Example 5, from 25.6 g of 3-butyl-5-hydrazinobenzothiophene hydrochloride and 23 g of 1-benzyl-4-piperidone. Melting point: 127°-128° C.

reactant | 3-butyl-5-hydrazinobenzothiophene hydrochloride | 25.6 g | Cl.C(CCC)C1=CSC2=C1C=C(C=C2)NN
reactant | 1-benzyl-4-piperidone | 23 g | C(C1=CC=CC=C1)N1CCC(CC1)=O | C12H15NO
product | 1-Butyl-9-benzyl-7,8,9,10-tetrahydrothieno[3,2-e]pyrido[4,3-b]indole | C(CCC)C1=CSC=2C1=C1C3=C(NC1=CC2)CCN(C3)CC3=CC=CC=C3 | C24H26N2S
